* independent full external RTDIN network; open assertion at 10 us
VBIAS bias 0 2.06
VREFSRC refsrc 0 1.25
VCTRL ctrl 0 PULSE(5 0 10u 1n 1n 10m 20m)
.model SWOPEN SW(Ron=1 Roff=1e12 Vt=2 Vh=0)
RREF bias forcep_i 430
RFPATH forcep_i sensorp 1
RSPATH sensorp sensep 1
RSNATH sensorn sensem 1
RRTD sensorp sensorn 100
RRETURN forcen_i 0 1m
RDIAGP bias sensep 1Meg
RDIAGN bias sensem 1Meg
RWINP sensep windowp 100k
CDIFF sensep sensem 1.1n
CGP sensep 0 100p
CGN sensem 0 100p
RLOWTOPX refsrc lowth 61900
RLOWBOTX lowth sensem 10000
RHIGHTOPX refsrc highth 5900
RHIGHBOTX highth 0 10000
SOPEN sensorn forcen_i ctrl 0 SWOPEN
.tran 1u 3m
.control
run
let high_margin=v(highth)-v(windowp)-0.004
let low_margin=v(windowp)-v(lowth)-0.004
meas tran cross WHEN high_margin=-0.020 FALL=1
.endc
.end
